US07812040B2
1-(Methanesulphonyl)piperazine.
Methanesulphonyl chloride (18.3 mL, 0.236 mol) was added dropwise to a solution of tert-butyl piperazine-1-carboxylate (40 g, 0.214 mol) and triethylamine (60 mL, 0.43 mol) in CH2Cl2 (300 mL) in argon under stirring at −20° C. The mixture was stirred at room temperature for 1 h, and water (100 mL) was added. The layers were separated, and the water layer was extracted with chloroform (2×200 mL). The organic fraction were washed with the 1 N NaHSO4 solution (100 mL), the saturated NaHCO3 solution (100 mL), dried over Na2SO4, filtered through SiO2 (50 g, 40-63 μm), and evaporated to dryness. The residue (white crystals) was dissolved in isopropanol (200 mL), concentrated HCl (35 mL) was added, and the mixture was refluxed for 1 h and evaporated. Chloroform (200 mL), the saturated K2CO3 solution (50 mL), and water (50 mL) were added to the residue under stirring. The organic layer was separated, and the water layer was extracted with chloroform (2×100 mL). The organic layers were dried over Na2SO4, filtered through SiO2 (50 g, 40-63 μm), and evaporated to dryness. The residue (white crystals) was dried to give the title compound in 94% (33 g) yield. LCMS data: M+H 165.0 (Calculated for C5H12N2O2S 164.23), 97.2%, r.t. 0.913 min. 1H-NMR data (dmso-d6): 2.99 (m, 4H), 2.83 (s, 3H), 2.74 (m, 4H).

reactant | Methanesulphonyl chloride | 0.236 mol, 18.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl piperazine-1-carboxylate | 0.214 mol, 40 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 0.43 mol, 60 mL | C(C)N(CC)CC | C6H15N
reactant | water | 100 mL | O | H2O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 1-(Methanesulphonyl)piperazine | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
